US04056384
A mixture of anthranilic acid (22.5 g), methyl isothiocyanate (12.5 g) and ethanol (200 ml) was refluxed for three hours, cooled and the precipitate filtered off and washed with water. Recrystallisation from ethanol gave 2-mercapto-3-methyl-3,4-dihydroquinazolin-4-one (13.0 g, m.p. 265°-266°). A mixture of this material (5.76 g) hydrazine hydrate (20 ml) and ethanol (30 ml) was refluxed for 30 minutes, then cooled. The precipitate was filtered off, washed with water and dried to give the 2-hydrazinoquinazolinone (3.16 g, m.p. 220°-223°). Recrystallisation from ethanol gave material m.p. 223°. A stirred solution of the crude product (1.9 g) in a mixture of hydrochloric acid (20 ml, 2N) and acetic acid (10 ml) was treated dropwise at 0°-5° with a solution of sodium nitrite (0.69 g) in water (5 ml). The mixture was allowed to attain room temperature and, after one hour, was filtered and the precipitate washed with water and dried to give the title compound (1.04 g., m.p. 164°-167°). Recrystallisation from ethanol gave material m.p. 167°.

reactant | anthranilic acid | 22.5 g | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | methyl isothiocyanate | 12.5 g | CN=C=S | C2H3NS
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-mercapto-3-methyl-3,4-dihydroquinazolin-4-one | 13.0 g | SC1=NC2=CC=CC=C2C(N1C)=O | C9H8N2OS
